US04766133
6.54 g of 5-(trifluoromethyl)-2-benzimidazolethiol are suspended in 200 ml of alcohol and treated with 5.34 g of 2-chloromethyl-3-methylpyridine hydrochloride while cooling wlth ice. Thereafter. a solution of 2.4 g of sodium hydroxide in 100 ml of water is added dropwise thereto, the mixture is left to boil at reflux overnight and subsequently evaporated to dryness in vacuo. The residue is dissolved in 950 ml of methylene chloride. The solution is washed firstly with 200 ml of 1.5N sodium hydroxide solution and then 3 x with 250 ml of water. dried over sodium sulphate and evaporated in vacuo. The crude product is purified on 100 g of silica gel with ethyl acetate/methylene chloride (1:1) as the elution agent. Crystallization from methylene chloride/petroleum ether gives 2-[[3-methyl-2-pyridyl)methyl]thio]-5-(trifluoromethyl)benzimidazole of melting point 180°-182°.

reactant | 5-(trifluoromethyl)-2-benzimidazolethiol | 6.54 g | FC(C1=CC2=C(N=C(N2)S)C=C1)(F)F | C8H5F3N2S
reactant | 2-chloromethyl-3-methylpyridine hydrochloride | 5.34 g | Cl.ClCC1=NC=CC=C1C
reactant | sodium hydroxide | 2.4 g | [OH-].[Na+]
solvent | water | 100 ml | O | H2O
product | 5-(trifluoromethyl)benzimidazole | FC(C1=CC2=C(N=CN2)C=C1)(F)F | C8H5F3N2
